US06492385B2
Step 15a: Preparation of 5′-chloro-2,2′-bithiophene-5-carboxaldehyde.
In a flask are placed 2-bromo-5-chlorothiophene (0.55 mL, 5.0 mmol) and Pd(PPh3)4 (0.17 g, 0.15 mmol), and the flask is vacuum purged and nitrogen filled (3×). THF (10 mL) is added by syringe and stirred 10 min. In a separate flask is placed 5-formyl-2-thiopheneboronic acid (0.94 g, 6.0 mmol) and EtOH (2 mL) and stirred until dissolved. This mixture is added by syringe to the first flask followed by vacuum purge and nitrogen fill (3×). A solution of Na2CO3 (2M, 5.0 mL, 10.0 mmol) is added by syringe followed by vacuum purge and nitrogen fill (3×). The reaction mixture is heated at 85° C. for 20 h. The reaction is cooled to rt and diluted with water. The aqueous solution is extracted with ether (3×). The combined ether layers are washed with water (3×) then brine (2×). The ether is dried over MgSO4, filtered, and concentrated. The crude product is purified over silica gel (5% EtOAc-heptane) to provide the product as an orange solid (0.27 g, 24%). 1H NMR (400 MHz, CDCl3) δ 9.89, 7.69, 7.20, 7.16, 6.93.

reactant | 2-bromo-5-chlorothiophene | 5.0 mmol, 0.55 mL | BrC=1SC(=CC1)Cl | C4H2BrClS
reactant | 5-formyl-2-thiopheneboronic acid | 6.0 mmol, 0.94 g | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | Na2CO3 | 10.0 mmol, 2M, 5.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.15 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 2 mL | CCO | C2H6O
product | 5′-chloro-2,2′-bithiophene-5-carboxaldehyde | 0.27 g, 24% | ClC1=CC=C(S1)C=1SC(=CC1)C=O | C9H5ClOS2
